US04789675
In a manner similar to that of Reference Example 5, 5,6,7,8-tetrahydro-3-nitro-2-naphthol was allowed to react with methyl 2,6-dibromohexanoate to give methyl 6-bromo-2-(5,6,7,8-tetrahydro-3-nitro-2-naphthyloxy)hexanoate as an oily product, which was then allowed to react, in a manner similar to that of Reference Example 8, with 1-(4-fluorophenyl)piperadine to obtain methyl 6-[4-(4-fluorophenyl)-1-piperazinyl]-2-(5,6,7,8-tetrahydro-3-nitro-2-naphthyloxy) hexanoate as an oily product. The overall yield was 79.4%.

reactant | 5,6,7,8-tetrahydro-3-nitro-2-naphthol | [N+](=O)([O-])C=1C(=CC=2CCCCC2C1)O | C10H11NO3
reactant | methyl 2,6-dibromohexanoate | BrC(C(=O)OC)CCCCBr | C7H12Br2O2
product | methyl 6-bromo-2-(5,6,7,8-tetrahydro-3-nitro-2-naphthyloxy)hexanoate | BrCCCCC(C(=O)OC)OC1=CC=2CCCCC2C=C1[N+](=O)[O-] | C17H22BrNO5
